US05051434
1-(2-chloro-5-pyridylmethyl)-2-methyl-3-nitroisothiourea (1.3 g) was dissolved in ethanol (20 ml) and to the solution was added an aqueous solution (50%) of dimethylamine (0.5 g) at room temperature, followed by one-day stirring at 30° C. The ethanol in the solution was distilled off under reduced pressure and it was purified on a chromatographic column (the eluent was a mixture of methanol and chloroform) so as to obtain the desired 3-(2-chloro-5-pyridylmethyl)-1,1-dimethyl-2-nitroguanidine (1.2 g) having a melting point in the range of from 158° to 160° C.

reactant | 1-(2-chloro-5-pyridylmethyl)-2-methyl-3-nitroisothiourea | 1.3 g | ClC1=NC=C(C=C1)CNC(SC)=N[N+](=O)[O-] | C8H9ClN4O2S
reactant | dimethylamine | 0.5 g | CNC | C2H7N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-(2-chloro-5-pyridylmethyl)-1,1-dimethyl-2-nitroguanidine | 1.2 g | ClC1=NC=C(C=C1)CNC(N(C)C)=N[N+](=O)[O-] | C9H12ClN5O2
